US05665718
19.8 g (0.0639 mol) of 7-chloro-8-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid were suspended in 100 ml of N,N-dimethylformamide while gassing with argon and treated portionwise at room temperature with 10.9 g (0.0671 mol) of 1,1'-carbonyldiimidazole. After the CO2 evolution had finished the beige suspension was stirred at 50° for 30 min., cooled and treated dropwise at a temperature below 25° within about 10 min. with 20 ml of 25% ammonia. After stirring for 15 minutes the brownish solution obtained was poured into 600 ml of ice-water. The mixture was stirred at room temperature for 30 min. and filtered, whereupon the crystals were rinsed with a total of 200 ml of water. After drying there were obtained 14.4 g (73%) of 7-chloro-8-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamide as beige crystals; m.p. 292°-294°.

reactant | 7-chloro-8-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid | 0.0639 mol, 19.8 g | ClC1=C(C=CC2=C1C(N(CC=1N2C=NC1C(=O)O)C)=O)F | C13H9ClFN3O3
reactant | 1,1'-carbonyldiimidazole | 0.0671 mol, 10.9 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | CO2 | C(=O)=O | CO2
reactant | ammonia | 20 ml | N | H3N
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 7-chloro-8-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamide | 14.4 g, 73% | ClC1=C(C=CC2=C1C(N(CC=1N2C=NC1C(=O)N)C)=O)F | C13H10ClFN4O2
